US04294960
Ethyl 2-(2-aminothiazol-4-yl)-2-iso-propoxyiminoacetate (syn isomer, 26.8 g.), 1N aqueous solution of sodium hydroxide (156 ml.), methanol (156 ml.) and tetrahydrofuran (100 ml.) were treated in a similar manner to that of Example D-(4) to give 2-(2-aminothiazol-4-yl)-2-iso-propoxyiminoacetic acid (syn isomer, 15.3 g.), mp. 151° C. (dec.).

reactant | Ethyl 2-(2-aminothiazol-4-yl)-2-iso-propoxyiminoacetate | 26.8 g | NC=1SC=C(N1)C(C(=O)OCC)=NOC(C)C | C10H15N3O3S
reactant | sodium hydroxide | 156 ml | [OH-].[Na+]
reactant | methanol | 156 ml | CO | CH4O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-(2-aminothiazol-4-yl)-2-iso-propoxyiminoacetic acid | 15.3 g | NC=1SC=C(N1)C(C(=O)O)=NOC(C)C | C8H11N3O3S
